US06765008B1
A. 2-amino-4,5-dimethyl-1-(2,4,6-trimethylphenyl)-1H-pyrrole-3-carbonitrile
A mixture of 3-hydroxy-2-butanone (100.000 g, 1.135 mol), 2,4,6-trimethylaniline (153.225 g, 1.135 mol) and p-toluenesulfonic acid (0.670 g) in 500 ml of benzene was refluxed using a Dean-Stark trap to remove water. After 2 hours, malononitrile (75.000 g, 1.135 mol) was added and the mixture was refluxed for an additional 10 hours until all of the starting material was consumed. The reaction mixture was cooled and precipitate formed and filtered. The solid was washed with a minimum amount of ethanol. The solid was diluted with 500 ml of benzene and product was dissolved. Some undesired product was insoluble and was filtered off. The filtrate was concentrated to give a tan solid which was recrystallized from ethanol to give 130.260 g of off-white crystals. 1H NMR (CDCl3) δ 1.68(s, 3H), 1.93(s, 6H), 2.05(s, 3H), 2.31(s, 3H), 3.62(brs, 2H), 6.95(s, 2H) ppm.

reactant | 3-hydroxy-2-butanone | 1.135 mol, 100.000 g | OC(C(C)=O)C | C4H8O2
reactant | 2,4,6-trimethylaniline | 1.135 mol, 153.225 g | CC1=C(N)C(=CC(=C1)C)C | C9H13N
reactant | malononitrile | 1.135 mol, 75.000 g | C(CC#N)#N | C3H2N2
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulfonic acid | 0.670 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-amino-4,5-dimethyl-1-(2,4,6-trimethylphenyl)-1H-pyrrole-3-carbonitrile | 130.260 g | NC=1N(C(=C(C1C#N)C)C)C1=C(C=C(C=C1C)C)C | C16H19N3
